US04593090
Dinitrogen trioxide gas (1.5 g) was introduced into a solution of the thus prepared 3-isopentyl-3-(n-butyl-α-D-glucopyranose-6-yl)-1-(2-chloroethyl)urea (4.68 g, 11.38 mmol) in a mixture of dichloroethane (50 ml), dichloromethane (10 ml), and monochlorobenzene (10 ml) with thorough stirring at 10°-18° C., and stirring was continued for further one hour at the same temperature. The reaction mixture was vacuum-concentrated at 28° C. or below and purified by column chromatography (packing silica gel; eluent: octane/isopropyl acetate 4:1) to obtain 3-isopentyl-3-(n-butyl-α-D-glucopyranose-6-yl)-1-(2-chloroethyl)-1-nitrosourea (3.82 g, 8.68 mmol); yield 76.3%; m.p. 66°-68° C.; [α]D20 +65.3° (C 1.0, methanol).

reactant | Dinitrogen trioxide | 1.5 g | N(=O)[N+](=O)[O-] | N2O3
reactant | 3-isopentyl-3-(n-butyl-α-D-glucopyranose-6-yl)-1-(2-chloroethyl)urea | 11.38 mmol, 4.68 g | C(CC(C)C)N(C(NCCCl)=O)C([C@@H]1[C@H]([C@@H]([C@H]([C@@](O)(O1)CCCC)O)O)O)O | C18H35ClN2O7
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
reactant | monochlorobenzene | 10 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | dichloroethane | 50 ml | ClC(C)Cl | C2H4Cl2
product | 3-isopentyl-3-(n-butyl-α-D-glucopyranose-6-yl)-1-(2-chloroethyl)-1-nitrosourea | 8.68 mmol, 3.82 g, yield 76.3% | C(CC(C)C)N(C(N(N=O)CCCl)=O)C([C@@H]1[C@H]([C@@H]([C@H]([C@@](O)(O1)CCCC)O)O)O)O | C18H34ClN3O8
